US06984653B2
Production of 2,2,2-trifluoro-N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]ethanesulfonamide
Triethylamine (137 μl) and 2,2,2-trifluoroethanesulfonyl chloride (65.0 l) were added to a solution of 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine (250 mg) in THF (5 ml) at 0° C., and the mixture was stirred at the same temperature for 110 min. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex) (eluent; hexane:ethyl acetate=1:2 to 1:4) and recrystallized from ethyl acetate-methanol-hexane to give the titled compound (48 mg) as colorless needle crystals.

reactant | Triethylamine | 137 μl | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoroethanesulfonyl chloride | 65.0 l | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine | 250 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCN)(F)F | C28H29F3N4O2
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2,2,2-trifluoro-N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]ethanesulfonamide | 48 mg | FC(CS(=O)(=O)NCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F)(F)F | C30H30F6N4O4S
